US06288082B1
6,7-Diethoxy-4-(1-methyl-2,5-dioxo-2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepin-7-ylamino)-quinoline-3-carbonitrile
A mixture of 0.5 g (1.8 mmol) of 4-chloro-6,7-diethoxy-quinoline-3-carbonitrile, 0.35 g (1.8 mmol) of 7-amino-1-methyl-2,5-dioxo-2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepine, and 0.21 g of pyridine hydrochloride was refluxed in ethoxyethanol for 5 hr. The solvent was removed at reduced pressure. The residue was stirred with ammonium hydroxide and the insoluble material was collected to give 0.8 g of title compound as a a tan solid. crystals: mass spectrum (electrospray, m/e): M+H 446.0.

reactant | 4-chloro-6,7-diethoxy-quinoline-3-carbonitrile | 1.8 mmol, 0.5 g | ClC1=C(C=NC2=CC(=C(C=C12)OCC)OCC)C#N | C14H13ClN2O2
reactant | 7-amino-1-methyl-2,5-dioxo-2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepine | 1.8 mmol, 0.35 g | NC1=CC2=C(N(C(CNC2=O)=O)C)C=C1 | C10H11N3O2
reactant | pyridine hydrochloride | 0.21 g | Cl.N1=CC=CC=C1
solvent | ethoxyethanol | C(C)OC(C)O | C4H10O2
product | 6,7-Diethoxy-4-(1-methyl-2,5-dioxo-2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepin-7-ylamino)-quinoline-3-carbonitrile | 0.8 g | C(C)OC=1C=C2C(=C(C=NC2=CC1OCC)C#N)NC1=CC2=C(N(C(CNC2=O)=O)C)C=C1 | C24H23N5O4
